US05856503
1.5 g of 3-methyl-benzo[d]isothiazol-6-ol in 26 ml of THF are added to a LDA solution previously prepared from 3.9 ml of diisopropylamine and 16.0 ml of n-butyllithium (1.6M in hexane) in 23 ml of THF and the mixture is stirred at -78° C. 2.5 ml of 3-methyl-2-butenal in 40 ml of THF are added. The reaction mixture is thawed overnight and neutralized with 3.9 ml of acetic acid in 20 ml of ether. The mixture is added to sodium hydrogen carbonate solution, the inorganic phase is extracted with ethyl acetate and the organic phases are washed with sodium chloride solution and dried. The crude product is purified by chromatography (silica gel, ethyl acetate:hexane 1:1). 1.5 g of (RS)-3-(2-hydroxy-4-methyl-pent-3-enyl)-benzo[d]isothiazol-6-ol are obtained.

reactant | 3-methyl-benzo[d]isothiazol-6-ol | 1.5 g | CC1=NSC2=C1C=CC(=C2)O | C8H7NOS
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 3.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 16.0 ml | C(CCC)[Li]
reactant | 3-methyl-2-butenal | 2.5 ml | CC(=CC=O)C | C5H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 26 ml | C1CCOC1 | C4H8O
solvent | THF | 23 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | acetic acid | 3.9 ml | C(C)(=O)O | C2H4O2
product | (RS)-3-(2-hydroxy-4-methyl-pent-3-enyl)-benzo[d]isothiazol-6-ol | 1.5 g | OC(CC1=NSC2=C1C=CC(=C2)O)C=C(C)C | C13H15NO2S
